US07026335B2
Preparation of 4-cyclohexyl-4-(3-oxo-propyl)-piperidine-1-carboxylic acid tert-butyl ester (10):
To a cooled (−78° C.) solution of 4-cyclohexyl-4-(2-methoxy-carbonylethyl)-piperidine-1-carboxylic acid tert-butyl ester, 9, (1.0 g, 2.833 mmol) in 40 ml of anhydrous methylene chloride is added diisobutylaluminum hydride (5.75 ml, 1 M, 5.75 mmol). The reaction is stirred at room temperature for 40 min before it is quenched by adding methanol (3 mL) and water (20 mL). The reaction mixture is warmed to room temperature and the organic layer separated, dried over sodium sulfate, filtered and concentrated in vacuo to afford 915 mg (>99% yield) of the desired compound as a colorless oil.

reactant | 4-cyclohexyl-4-(2-methoxy-carbonylethyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(CC(OC)=C=O)C1CCCCC1 | C20H33NO4
reactant | diisobutylaluminum hydride | 5.75 mmol, 1 M, 5.75 ml | [H-].C(C(C)C)[Al+]CC(C)C
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 4-cyclohexyl-4-(3-oxo-propyl)-piperidine-1-carboxylic acid tert-butyl ester | 915 mg, >99% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)(CCC=O)C1CCCCC1 | C19H33NO3
